US09034921B2
Step 1: 7-Chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran-3-ol
To a solution of 7-chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzofuran-3(2H)-one (285 mg, 0.345 mmole) in THF/MeOH (9 mL/3 mL) was added NaBH4 (39.2 mg, 1.04 mmole) at 0° C. The resulting solution was stirred at 0° C. for 1 hr, diluted with 1N—HCl and extracted with ethyl acetate. The organic layer was washed with water then brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified on Biotage® purification apparatus to yield the title compound (260 mg, 91%) as a yellow gum.

reactant | 7-chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzofuran-3(2H)-one | 0.345 mmole, 285 mg | ClC1=C(C=C(C=2C(COC21)=O)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C51H49ClO8
reactant | NaBH4 | 1.04 mmole, 39.2 mg | [BH4-].[Na+]
solvent | THF MeOH | 9 mL | C1CCOC1.CO
solvent | HCl | Cl | ClH
product | 7-Chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran-3-ol | 260 mg, 91% | ClC1=C(C=C(C=2C(COC21)O)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C51H51ClO8
